US06235956B1
2-methoxy-2-(octadecyloxy)propane was prepared by reacting stearic alcohol (0.025 mole) with 2-methoxypropene (4 equivalents) for 2 hours at 20° C. in the presence of one drop of phosphoryl chloride (POCl3) then adding 5 drops of triethylamine and distilling the excess enol ether.

reactant | stearic alcohol | 0.025 mole | CCCCCCCCCCCCCCCCCCO | C18H38O
reactant | 2-methoxypropene | 4 equivalents | COC(=C)C | C4H8O
catalyst | phosphoryl chloride | one drop | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
product | 2-methoxy-2-(octadecyloxy)propane | COC(C)(C)OCCCCCCCCCCCCCCCCCC | C22H46O2
